US04242121
3-Chloro-6-(3,5-diisopropylphenoxy)benzoic Acid
2,5-dichlorobenzoic acid (5 g) and 3,5-diisopropylphenol (4.66 g) were dissolved in dry xylene and the solution placed under dry oxygen-free nitrogen. Sodium hydride (1.25 g) was added as a suspension in petroleum ether. Cuprous bromide was added and the solution refluxed for 5 hours and cooled. The xylene was removed by low pressure distillation. The remaining solid was acidified with dilute hydrochloric acid and extracted with diethyl ether. The ethereal layer was separated, dried and distilled under low pressure to give an oil. The oil was dissolved in petroleum ether (30°-40° ). Standing gave a crystalline solid, which was recrystallised from hexane to give the title compound (4.3 g), mp 129°-130° C.

reactant | 2,5-dichlorobenzoic acid | 5 g | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | 3,5-diisopropylphenol | 4.66 g | C(C)(C)C=1C=C(C=C(C1)C(C)C)O | C12H18O
reactant | Sodium hydride | 1.25 g | [H-].[Na+]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Chloro-6-(3,5-diisopropylphenoxy)benzoic Acid | 4.3 g | ClC=1C=C(C(=O)O)C(=CC1)OC1=CC(=CC(=C1)C(C)C)C(C)C | C19H21ClO3
